US09428503B2
Intermediate A11: 6-Bromo-4-chloroquinoline-3-carboxamide
DMF (1.506 mL, 19.37 mmol) was added to 6-bromo-4-oxo-1H-quinoline-3-carboxylic acid (51.93 g, 193.72 mmol) and thionyl chloride (353 mL, 4843.07 mmol) at r.t. and the resulting solution stirred at 70° C. for 2 h under an inert atmosphere. The resulting solution was evaporated to dryness and the residue azeotroped with toluene to afford 6-bromo-4-chloroquinoline-3-carbonyl chloride (62.13 g). The 6-bromo-4-chloroquinoline-3-carbonyl chloride was dissolved in DCM (420 mL) and added portionwise to ammonium hydroxide (251 mL, 1937.23 mmol) at 0° C. over 15 minutes. The organic solvent was removed under reduced pressure and the solid collected by filtration, washed with water, Et2O and then dried to afford the desired material (52.8 g, 95%) as a white solid. NMR Spectrum: 1H NMR (500 MHz, DMSO-d6) δ 8.00-8.11 (3H, m), 8.24 (1H, s), 8.45 (1H, s), 8.92 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=287.

reactant | 6-bromo-4-chloroquinoline-3-carbonyl chloride | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)Cl)Cl | C10H4BrCl2NO
reactant | ammonium hydroxide | 1937.23 mmol, 251 mL | [OH-].[NH4+]
solvent | DCM | 420 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-4-chloroquinoline-3-carboxamide | 52.8 g, 95% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)N)Cl | C10H6BrClN2O
